US05804601
6-(Benzothiazol-2-yl)hexanoic acid
A mixture of monoethyl heptanedioate (9.41 g), o-aminothiophenol (5.35 ml) and polyphosphoric acid (150 g) was heated to 130° C. with stirring and the reaction was conducted at the same temperature for 2 hours. After cooling to 40° C., pure water (300 ml) was added and the mixture was stirred at 50° C. for 30 minutes. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate (500 ml). The organic layer was extracted with 1N NaOH, acidified with concentrated HCl, and reextracted with ethyl acetate. The extract was dried and concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to provide the title compound (4.6 g).

reactant | monoethyl heptanedioate | 9.41 g | C(CCCCCC(=O)[O-])(=O)OCC
reactant | o-aminothiophenol | 5.35 ml | NC1=C(C=CC=C1)S | C6H7NS
solvent | water | 300 ml | O | H2O
product | 6-(Benzothiazol-2-yl)hexanoic acid | 4.6 g | S1C(=NC2=C1C=CC=C2)CCCCCC(=O)O | C13H15NO2S
